US04327093
A mixture of benzhydryl 7-amino-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide (1.33 g) and trimethylsilylacetamide (0.65 g) in dry methylene chloride (40 ml) was stirred for 2.5 hours at room temperature and then cooled to -20° C. (A solution). On the other hand, to a mixture of 2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetic acid (syn isomer) (0.50 g) in dry methylene chloride (12.5 ml) was added phosphorus oxychloride (1.6 ml) under ice-water cooling followed by stirring for 2 hours at room temperature. To the mixture was added a solution of N,N-dimethylformamide (0.99 ml) in dry methylene chloride (2 ml) followed by stirring for 50 minutes under ice-water cooling. Thus obtained solution was added to the A solution obtained above, followed by stirring for an hour at -30° to -20° C. The reaction mixture was poured into a mixture of a saturated aqueous solution of sodium bicarbonate (35 ml) and water (35 ml). The methylene chloride layer was separated therefrom and the remaining aqueous layer was further extracted with methylene chloride (50 ml×2). The methylene chloride layer and the extract were combined, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, treated with activated charcoal and evaporated under reduced pressure. The residue was washed with diethyl ether and dried to give benzhydryl 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide (syn isomer) (1.3 g).

reactant | benzhydryl 7-amino-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide | 1.33 g | NC1[C@@H]2N(C(=C(CS2=O)COC(=O)N2CCN(CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H30N4O6S
reactant | trimethylsilylacetamide | 0.65 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetic acid | 0.50 g | CON=C(C(=O)O)C1=NSC(=N1)N | C5H6N4O3S
reactant | phosphorus oxychloride | 1.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | 35 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | water | 35 ml | O | H2O
solvent | N,N-dimethylformamide | 0.99 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-methoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(4-methyl-1-piperazinyl)carbonyloxymethyl-3-cephem-4-carboxylate-1-oxide | 1.3 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)COC(=O)N2CCN(CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | C32H34N8O8S2
